US04535089
4.5 g of 4-chlorobenzoyl chloride are added dropwise to a mixture of 4 g of isobutyrylmethylamine hydrochloride, 9.8 g of sodium bicarbonate, 200 ml of ethyl acetate and 100 ml of water at 5° C. to 10° C. under stirring. The mixture is further stirred at room temperature for 3 hours. The ethyl acetate layer is collected, and said layer is washed with water, dried and then condensed under reduced pressure to remove solvent. 6.1 g of N-(4-chlorobenzoyl)isobutyrylmethylamine are obtained. Yield: 87.5%.

reactant | 4-chlorobenzoyl chloride | 4.5 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | isobutyrylmethylamine hydrochloride | 4 g | Cl.C(C(C)C)(=O)CN
reactant | sodium bicarbonate | 9.8 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | N-(4-chlorobenzoyl)isobutyrylmethylamine | 6.1 g, Yield: 87.5% | ClC1=CC=C(C(=O)NCC(C(C)C)=O)C=C1 | C12H14ClNO2
